US06147255
(c) 5-(3-tert-Butyl-4-methoxyphenyl)-2-thiophenecarboxaldehyde
7.15 g (19 mmol) of pyridinium dichromate and 350 ml of dichloromethane are introduced into a round-bottomed flask. A solution of 3.9 g (14 mmol) of 5-(3-tert-butyl-4-methoxyphenyl)-2-thiophenemethanol in 50 ml of dichloromethane is added dropwise, at 0° C., and the mixture is stirred at room temperature for two hours. The reaction medium is filtered through silica and, after evaporation, 3.26 g (84%) of the expected aldehyde are recovered, in the form of a brown oil.

reactant | pyridinium dichromate | 19 mmol, 7.15 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 5-(3-tert-butyl-4-methoxyphenyl)-2-thiophenemethanol | 14 mmol, 3.9 g | C(C)(C)(C)C=1C=C(C=CC1OC)C1=CC=C(S1)CO | C16H20O2S
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 350 ml | ClCCl | CH2Cl2
product | 5-(3-tert-Butyl-4-methoxyphenyl)-2-thiophenecarboxaldehyde | C(C)(C)(C)C=1C=C(C=CC1OC)C1=CC=C(S1)C=O | C16H18O2S
